US04767755
2.1. 2-(4-Methylphenyl)-6-nitroimidazo[1,2-a]pyridine
81 g (0.38 mole) of 1-bromo-2-(4-methylphenyl)-2-ethanone and 53 g (0.38 mole) of 2-amino-5-nitropyridine are reacted in 900 ml of n-propanol. The solution is maintained under reflux, the reaction being followed by thin layer chromatography. When there is no further change, the mixture is evaporated to dryness. The residue is taken up with water and treated with ammonia solution until the pH>8. The insoluble material is filtered off and dried, and then treated with dichloromethane. The insoluble portion is recrystallized in ethyl acetate, which yields a first crop. The mother liquors are then combined with the portion soluble in dichloromethane, the mixture is concentrated and a second crop of product is obtained. The two crops are purified separately by chromatography. 22 g (23%) of yellow solid are obtained overall. M.p. 205°-206° C.

reactant | 1-bromo-2-(4-methylphenyl)-2-ethanone | 0.38 mole, 81 g | BrCC(=O)C1=CC=C(C=C1)C | C9H9BrO
reactant | 2-amino-5-nitropyridine | 0.38 mole, 53 g | NC1=NC=C(C=C1)[N+](=O)[O-] | C5H5N3O2
solvent | n-propanol | 900 ml | C(CC)O | C3H8O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-(4-Methylphenyl)-6-nitroimidazo[1,2-a]pyridine | 22 g, 23% | CC1=CC=C(C=C1)C=1N=C2N(C=C(C=C2)[N+](=O)[O-])C1 | C14H11N3O2
